US07323472B2
To a solution of 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one (800 mg, 1.8 mmol) in 1-methyl-2-pyrrolidinone (8 mL) was added serinol (819 mg, 9 mmol, 5 eq) and the reaction mixture was heated to 50°. After 1 h, H2O (20 mL) was added, followed by Et2O (20 mL) and EtOAc (20 mL). The layers were separated. The organic layer was washed with satd aq NaCl, dried (MgSO4), filtered and the solvent was evaporated. The yellow residue was then purified by Flash chromatography to afford 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (750 mg, 92% yield). 1H-NMR (CDCl3) δ 2.30 (s, 3H), 3.67 (m, 1H), 3.88 (m, 4H), 6.30 (br s, 1H), 6.41 (d, 1H, J=9.6 Hz), 7.08 (m, 4H), 7.24 (m, 1H), 7.31 (d, 1H, J=9.6 Hz), 7.49 (m, 1H). LC MS (m/e)=457 (MH+).

reactant | 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.8 mmol, 800 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)S(=O)(=O)C)=O | C21H14F3N3O3S
reactant | serinol | 9 mmol, 819 mg, 5 eq | NC(CO)CO | C3H9NO2
reactant | H2O | 20 mL | O | H2O
reactant | Et2O | 20 mL | CCOCC | C4H10O
solvent | 1-methyl-2-pyrrolidinone | 8 mL | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-(2-hydroxy-1-hydroxymethyl-ethylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 750 mg, 92% yield | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)NC(CO)CO)=O | C23H19F3N4O3
